US06103910
100 mg (0.18 mmol) (R)-1-[9-[(R)-2-benzyloxycarbonyl-pyrrolidin-1-yl]-9-oxo- nonanoyl]-pyrrolidine-2-carboxylic acid benzyl ester in 20 ml ethanol were hydrogenated in the presence of 20 mg 5% Pd on carbon for two hours at room temperature. Filtration and evaporation gave 60 mg (R)-1-[9-[(R)-2- carboxy-pyrrolidin-1-yl]-9-oxo-nonanoyl]pyrrolidine-2-carboxylic acid, as a colorless oil. ISP-MS: 383 (MH+).

reactant | (R)-1-[9-[(R)-2-benzyloxycarbonyl-pyrrolidin-1-yl]-9-oxo- nonanoyl]-pyrrolidine-2-carboxylic acid benzyl ester | 0.18 mmol, 100 mg | C(C1=CC=CC=C1)OC(=O)[C@@H]1N(CCC1)C(CCCCCCCC(=O)N1[C@H](CCC1)C(=O)OCC1=CC=CC=C1)=O | C33H42N2O6
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | Pd on carbon | 20 mg | [Pd] | Pd
product | (R)-1-[9-[(R)-2- carboxy-pyrrolidin-1-yl]-9-oxo-nonanoyl]pyrrolidine-2-carboxylic acid | 60 mg | C(=O)(O)[C@@H]1N(CCC1)C(CCCCCCCC(=O)N1[C@H](CCC1)C(=O)O)=O | C19H30N2O6
